US06515179B2
A 1 M lithium methoxide/methanol solution (3.75 ml; 2.50 molar equivalents) was added to a solution of (S)-N-(2-nitrobenzenesulfonyl )azetidine-2-carboxylic acid (429.4 mg; 46.4% ee) in dry dimethoxyethane (5 ml) at room temperature in a nitrogen atmosphere, followed by stirring for 94 hours at room temperature. One normal hydrochloric acid (2.25 ml), successively triethylamine (0.33 ml; 1.58 molar equivalents) and a dimethoxyethane solution (1.5 ml) containing di-tert-butyl dicarbonate (397.7 mg; 1.20 molar equivalents) were added to the reaction mixture, followed by stirring for 24 hours at room temperature. On the way, water (6 ml) was further added for decreasing insoluble matter. The reaction solvents were removed by evaporation under reduced pressure, and ethyl acetate (15 ml) and 1 N hydrochloric acid (8 ml) were added to the resulting concentrate under ice cooling, followed by extraction and solution separation. The aqueous layer was extracted three times with ethyl acetate (15 ml). The resulting organic layer was dried over sodium sulfate, filtered and concentrated to obtain an oily product. This oily product was purified by silica gel column chromatography in the same manner as in Example 7 to obtain (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (146.5 mg; overall yield: 48.5%). HPLC analysis conducted under the same conditions as in Reference Example 4 resulted in 38.0% ee.

reactant | lithium methoxide methanol | 1 M, 3.75 ml | C[O-].[Li+].CO
reactant | (S)-N-(2-nitrobenzenesulfonyl )azetidine-2-carboxylic acid | 429.4 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1[C@@H](CC1)C(=O)O | C10H10N2O6S
reactant | hydrochloric acid | 2.25 ml | Cl | ClH
reactant | di-tert-butyl dicarbonate | 1.20 molar, 397.7 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 1.5 ml | C(OC)COC | C4H10O2
solvent | water | 6 ml | O | H2O
solvent | triethylamine | 1.58 molar, 0.33 ml | C(C)N(CC)CC | C6H15N
product | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | 146.5 mg, yield: 48.5% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
